US06869954B2
5) Preparation of 6-(3-fluoro-4-methoxyphenyl)-2-[3-(4-fluorophenyl)propyl]-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 6-(3-fluoro-4-methoxyphenyl)-2-[3-(4-fluorophenyl)propyl]-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and 1-methylpiperazine were reacted to yield the title compound as a yellow oil (yield: 79.3%).

reactant | 6-(3-fluoro-4-methoxyphenyl)-2-[3-(4-fluorophenyl)propyl]-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C=1C=C(C(N(N1)CCCC1=CC=C(C=C1)F)=O)COS(=O)(=O)C | C22H22F2N2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 6-(3-fluoro-4-methoxyphenyl)-2-[3-(4-fluorophenyl)propyl]-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one | yield: 79.3% | FC=1C=C(C=CC1OC)C=1C=C(C(N(N1)CCCC1=CC=C(C=C1)F)=O)CN1CCN(CC1)C | C26H30F2N4O2
